* c:\users\c\esim-workspace\mssocm\mssocm.cir

.include avsd_opamp.sub
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
* u1  vin plot_v1
xsc1 net-_sc1-pad1_ vin sky130_fd_pr__cap_mim_m3_1 W=1 L=1
v3 vdd gnd  dc 12
* s c m o d e
xsc2 net-_sc1-pad1_ net-_sc2-pad2_ vdd sky130_fd_pr__res_generic_pd W=1 L=1
x1 vdd vss net-_u3-pad2_ net-_sc1-pad1_ net-_sc2-pad2_ gnd avsd_opamp
v2 gnd vss  dc 12
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_sc3-pad2_ sdeltaadc
* u3  net-_sc3-pad2_ net-_u3-pad2_ dac_bridge_1
v4  net-_u2-pad2_ gnd sine(10 10 1 0 0)
v1  vin gnd sine(10 10 1 0 0)
* u4  vout plot_v1
xsc3 vout net-_sc3-pad2_ sky130_fd_pr__cap_mim_m3_1 W=1 L=1
* u5  net-_sc2-pad2_ net-_u2-pad1_ int
a1 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_sc3-pad2_ ] u2
a2 [net-_sc3-pad2_ ] [net-_u3-pad2_ ] u3
a3 net-_sc2-pad2_ net-_u2-pad1_ u5
* Schematic Name:                             sdeltaadc, NgSpice Name: sdeltaadc
.model u2 sdeltaadc(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             int, NgSpice Name: int
.model u5 int(in_offset=0.0 gain=1.0 out_lower_limit=0.0 out_upper_limit=1.0 limit_range=1.0e-6 out_ic=0.0 ) 
.tran 0.01e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vin)
plot v(vout)
.endc
.end
